US07977358B2
C] [5-(3-Benzofuran-2-yl-phenyl)-1,4-dimethyl-1H-pyrazol-3-yl]-1-(3-diethylamino-pyrrolidin-1-yl)-methanone
In analogy to the procedure described in Example 14C], [5-(3-bromo-phenyl)-1,4-dimethyl-1H-pyrazol-3-yl]-(3-diethylamino-pyrrolidin-1-yl)-methanone and benzo[b]furan-2-boronic acid gave the title compound in 39% yield as light brown foam. MS: 457.3 (MH+).

reactant | [5-(3-bromo-phenyl)-1,4-dimethyl-1H-pyrazol-3-yl]-(3-diethylamino-pyrrolidin-1-yl)-methanone | BrC=1C=C(C=CC1)C1=C(C(=NN1C)C(=O)N1CC(CC1)N(CC)CC)C | C20H27BrN4O
reactant | benzo[b]furan-2-boronic acid | O1C2=C(C=C1B(O)O)C=CC=C2 | C8H7BO3
product | [5-(3-Benzofuran-2-yl-phenyl)-1,4-dimethyl-1H-pyrazol-3-yl]-1-(3-diethylamino-pyrrolidin-1-yl)-methanone | 39% yield | O1C(=CC2=C1C=CC=C2)C2=C(C=CC=C2)C2=C(C(=NN2C)C(=O)N2CC(CC2)N(CC)CC)C | C28H32N4O2
